US04063929
d. Tris-(2-hydroxyethyl)ammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (3.0 g, 0.0083 mole) is dissolved in glyme (20 ml) and a solution of triethanolamine (1.35 g, 0.0091 mole) in glyme (5 ml) is added rapidly while stirring at room temperature. After stirring for a few hours the solvent is removed in vacuo, the product is triturated repeatedly with petroleum ether (bp 30°-60° C.) and dried to a weight of 2.5 g. Anal. Calcd. for C20H22ClF3N2O8 : C, 47.02; H, 4.34; Cl, 6.39; N, 5.48; F, 11.15. Found: C, 47.08; H, 4.78; Cl, 6.48; N, 5.21; F, 10.16.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 0.0083 mole, 3.0 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | triethanolamine | 0.0091 mole, 1.35 g | N(CCO)(CCO)CCO | C6H15NO3
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
solvent | glyme | 5 ml | C(OC)COC | C4H10O2
product | Tris-(2-hydroxyethyl)ammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.OCC[NH+](CCO)CCO | InChI=1S/C14H7ClF3NO5.C6H15NO3/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;8-4-1-7(2-5-9)3-6-10/h1-6H,(H,20,21);8-10H,1-6H2
